US03963713
To a solution of 0.271 grams (0.001 mole) 5,7-dihydro-5,5,7,7-tetramethyl-3-phenylfuro-[3,4-e]-as-triazine-4-oxide and 0.246 grams (0.003 mole) cyclohexene in 4 ml. absolute ethanol is added 10 milligrams of 10% palladium on charcoal and the resulting mixture is refluxed under an atmosphere of nitrogen for 18 hours. The catalyst is removed by filtration and the filtrate evaporated to dryness. The residue is recrystallized from ether/hexane to give 5,7-dihydro-5,5,7,7-tetramethyl-3-phenylfuro[3,4-e]-as-triazine, m.p. 90°-91°C.

reactant | 5,7-dihydro-5,5,7,7-tetramethyl-3-phenylfuro-[3,4-e]-as-triazine-4-oxide | 0.001 mole, 0.271 grams | CC1(OC(C2=C1[N+](=C(N=N2)C2=CC=CC=C2)[O-])(C)C)C | C15H17N3O2
reactant | cyclohexene | 0.003 mole, 0.246 grams | C1=CCCCC1 | C6H10
catalyst | palladium on charcoal | 10 milligrams | [Pd] | Pd
solvent | ethanol | C(C)O | C2H6O
product | 5,7-dihydro-5,5,7,7-tetramethyl-3-phenylfuro[3,4-e]-as-triazine | CC1(OC(C2=C1N=C(N=N2)C2=CC=CC=C2)(C)C)C | C15H17N3O
